US06051712
A solution of 190 mg (1.19 mmol) of 6-isoquinoline-methanol in 1 ml of glacial acetic acid was treated with 2 ml of 30% HBr in glacial acetic acid and the mixture was heated at 70° C. for 45 minutes. The reaction mixture was cooled, treated with 20 ml of diethyl ether and stirred at 0° C. for 30 min. The resulting solid was filtered off, washed with diethyl ether and dried in a high vacuum. There was obtained 6-bromomethyl-isoquinoline hydrobromide (73% of theory) as a light brown solid; MS: 221, 223 (M)+.

reactant | 6-isoquinoline-methanol | 1.19 mmol, 190 mg | C1=NC=CC2=CC(=CC=C12)CO | C10H9NO
reactant | HBr | 2 ml | Br | BrH
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-bromomethyl-isoquinoline hydrobromide | 73% | Br.BrCC=1C=C2C=CN=CC2=CC1 | InChI=1S/C10H8BrN.BrH/c11-6-8-1-2-10-7-12-4-3-9(10)5-8;/h1-5,7H,6H2;1H
